US05846982
4-cyclopropylmethoxy-1H-indole
A solution of 5.00 gm (37.6 mmol) 4-hydroxyindole in dimethylformamide was added dropwise over 30 minutes to a solution of 1.65 gm (41.3 mMol) sodium hydride (60% suspension in mineral oil) in 25 mL dimethylformamide at 0° C. The resulting black solution was stirred at room temperature for 2 hours and then a solution of 3.6 mL (37.6 mMol) cyclopropylmethyl bromide in 10 mL dimethylformamide was added dropwise. The resulting mixture was stirred for 1.5 hours at room temperature. The reaction mixture was then quenched by the addition of 100 mL water and the resulting mixture extracted well with ethyl acetate. The organic phases were combined, washed sequentially with water and saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 10% ethyl acetate in hexane. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 4.48 gm (64%) of the title compound as an amber oil.

reactant | 4-hydroxyindole | 37.6 mmol, 5.00 gm | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | sodium hydride | 41.3 mMol, 1.65 gm | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 37.6 mMol, 3.6 mL | C1(CC1)CBr | C4H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-cyclopropylmethoxy-1H-indole | 4.48 gm, 64% | C1(CC1)COC1=C2C=CNC2=CC=C1 | C12H13NO
